US07576094B2
0.3 g of a solution of 7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (prepared as described herein) was dissolved in 20 mL of 4-(dicyanomethylene)-2-methyl-6-(4-dimethylaminostyryl)-4H-pyran (DCM). The solution was flushed with Argon then cooled to 0° C. in an ice bath. 0.151 mL (1.4 mmol) of titanium tetrachloride was added followed by 0.149 mL (1.7 mmol, 1.2 eq) of α,α-dichloromethyl-methyl ether. The solution was stirred at 0° C. for 10 min, warmed to room temperature, and stirred overnight. After addition of EtOAc (50 mL), the solution was washed with water, and then dried over Na2SO4. The crude material was purified on a silica column eluting with 1:8 EtOAc/hexane to yield 180 mg of 6-hydroxy-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-5-carbaldehyde as a yellow solid. 1H-NMR (300 MHz, CDCl3) δ=1.65-1-70 (m, 1H), 1.80-1.97 (m, 2H), 2.06-2.27 (m, 11H), 3.06-3.11 (t, 2H), 10.20 (s, 1H), 12.13 (s, 1H) ppm. MS (m/z)=247 (M+H+).

reactant | 7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | CC1=C(C=C2CCC3(CCC3)OC2=C1C)O | C14H18O2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | 4-(dicyanomethylene)-2-methyl-6-(4-dimethylaminostyryl)-4H-pyran | 20 mL | C(#N)C(=C1C=C(OC(=C1)C=CC1=CC=C(C=C1)N(C)C)C)C#N | C19H17N3O
catalyst | titanium tetrachloride | 1.4 mmol, 0.151 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 6-hydroxy-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-5-carbaldehyde | 180 mg | OC1=C(C=2CCC3(CCC3)OC2C(=C1C)C)C=O | C15H18O3
